US06437150B1
4-Oxo-decanoic Acid 3,7-Dimethyl-oct-6-enyl Ester
A solution of 20.0 g 4-oxo-1-decanoic acid (Synthesis, 1987, 408), 16.8 g citronellol extra and 0.5 g p-toluene-sulfonic acid in 150 ml of cyclohexane was refluxed in a flask equipped with a Dean-Stark trap for 3 hours. Then the reaction mixture was cooled, diluted with ether, washed with saturated NaHCO3 and water. The organic phase was dried, filtered and evaporated to dryness. The resulting oil was purified by chromatography to yield 31.7 g of a yellow oil.

reactant | 4-oxo-1-decanoic acid | 20.0 g | O=C(CCC(=O)O)CCCCCC | C10H18O3
reactant | citronellol | 16.8 g | CC(C)=CCCC(C)CCO | C10H20O
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
solvent | ether | CCOCC | C4H10O
catalyst | p-toluene-sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-Oxo-decanoic Acid 3,7-Dimethyl-oct-6-enyl Ester | 31.7 g | CC(CCOC(CCC(CCCCCC)=O)=O)CCC=C(C)C | C20H36O3
